* C:\Users\Lenovo\Desktop\Projects - Upgrading My Engineering Skills\ltspice-python-sweeper\circuits\RC-low-pass-filter.asc
V1 in 0 PULSE(0 1 0 1u 1u 10m 20m)
R1 out in 98
C1 out 0 {CVAL}
.tran 0 200m 0 1u
.param CVAL=200u
.backanno
.end
